Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8].[H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9],-5.5701366435500015
[H:14].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.563521297139999
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11],3.83169234931
[C:1]([H:6])#[C:7][C:8]([H:9])([H:10])[H:11].[C:2]([H:3])([H:4])=[C:5]>>[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],1.3795849060499998
[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]1([H:15])[H:16]>>[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13])=[C:14]([H:15])[H:16],-1.55295593641
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6](#[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]=[C:3]([H:4])[H:5],-1.1618181871100002
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10]>>[H:4].[O:1]=[C:2]=[C:3][C:5]([H:6])[C:7]([H:8])=[C:9][H:10],2.74258663465
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],1.9218924107
[C:3]([H:4])([H:5])=[C:6][O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][C:9]([H:10])([H:11])[H:12],-3.19764112158
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:3],2.35621703365
[C:1]#[C:2]/[C:3]([O:4][H:5])=[C:6](\[H:7])[O:8][H:9]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6][O:8][H:9].[H:7],4.6474735563300005
[O:1]=[C:2]=[C:3][C:4]([H:5])[C:6]([H:7])=[C:8][H:9]>>[C:2]#[C:3][C:4]([H:5])[C:6]([H:7])=[C:8][H:9].[O:1],7.23401727768
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.8525384737
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:4][H:5],3.34435050384
[C:4]=[C:5]([H:6])[H:7].[O:1][C:2][C:3]>>[O:1][C:2]#[C:3][C:4][C:5]([H:6])[H:7],-6.39499230887
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[H:8]>>[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[H:8].[O:1],7.74944151
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:4],2.16854239938
[H:1][O:2][C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2],6.2384946035
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12].[H:1][C:2]#[C:3][H:4],2.34914777713
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]1([H:8])[O:9][C:10]1[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:10](=[O:9])[H:11],-1.42377671029
[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])[H:7])[C:8]([H:9])[O:10]1>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:10][C:8][H:9],1.2009733018100002
[C:5]([H:6])#[C:7][O:8].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]=[O:8],-0.9656792838
[C:4]([H:5])=[C:6]([H:7])[C:8](=[O:9])[H:10].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8](=[O:9])[H:10],-4.32249101226
[O:1]=[C:2]([H:3])[O:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:6].[O:1]=[C:2]([H:3])[O:4][C:5](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.54485894384
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.60544660681
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[O:7],2.27743135229
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.33191662406
[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14],-1.11933596585
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]1([C:9]([H:10])([H:11])[H:12])[C:13][O:14]1>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])=[C:13]=[O:14],-2.40841791677
